US08389511B2
tert-Butyl (rac.)-(3R,4R)-4-[3-(benzoyloxy)phenyl]-3-(ethylamino)piperidine-1-carboxylate
To a solution of tert-butyl (rac.)-(3R,4R)-3-(ethylamino)-4-(3-hydroxyphenyl)piperidine-1-carboxylate (1.76 g) in methylene chloride (16 ml) were added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.37 g), N,N-dimethylaminopyridine (872 mg), triethylamine (995 μl), and benzoic acid (610 mg), and the mixture was stirred at room temperature for one hour. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous ammonium chloride solution, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (the developing solvent: hexane/ethyl acetate=1/1) to give the title compound (968 mg).

reactant | tert-butyl (rac.)-(3R,4R)-3-(ethylamino)-4-(3-hydroxyphenyl)piperidine-1-carboxylate | 1.76 g | C(C)N[C@H]1CN(CC[C@@H]1C1=CC(=CC=C1)O)C(=O)OC(C)(C)C | C18H28N2O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.37 g | Cl.CN(CCCN=C=NCC)C
reactant | benzoic acid | 610 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 995 μl | C(C)N(CC)CC | C6H15N
product | tert-Butyl (rac.)-(3R,4R)-4-[3-(benzoyloxy)phenyl]-3-(ethylamino)piperidine-1-carboxylate | 968 mg | C(C1=CC=CC=C1)(=O)OC=1C=C(C=CC1)[C@@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)NCC | C25H32N2O4
